US04689339
2,3-Dihydro-2-methyl-1H-indene-2-carboxylic acid chloride
A stirred mixture of 2,3-dihydro-2-methyl-1H-indene-2-carboxylic acid (6.70 g) and thionyl chloride (70 ml) is heated under reflux for 14 hr. The ecess of thionyl chloride is removed and the acid chloride is distilled. Yield 5.35 g, 72%, bp. 93°-98° C./3 mmHg.

reactant | 2,3-dihydro-2-methyl-1H-indene-2-carboxylic acid | 6.70 g | CC1(CC2=CC=CC=C2C1)C(=O)O | C11H12O2
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,3-Dihydro-2-methyl-1H-indene-2-carboxylic acid chloride | CC1(CC2=CC=CC=C2C1)C(=O)Cl | C11H11ClO
